US06919335B2
6-Bromo-2,3-dihydro-1-methoxy-1H-indene
To a solution of 6-bromoindanol (0.51 g, 2.4 mmol) in anhydrous tetrahydrofuran (10 mL), was added sodium hydride (0.097 g, 3.84 mmol) over a period of five minutes at room temperature. The reaction mixture was stirred at room temperature for fifteen minutes and iodomethane (0.22 mL, 3.6 mmol) was added. After thirty minutes at room temperature, the reaction mixture was partitioned between ethyl acetate (20 mL) and water (20 mL). The ethyl acetate layer was washed with brine (20 mL), dried over sodium sulfate and concentrated to yield the title compound (0.485 g, 89%). 1H NMR (CDCl3) : □ 7.5 (s, 1H), 7.3 (d, 1H), 7.0 (d, 1H), 4.7 (m, 1H), 3.3 (s, 3H), 3.0 (m, 1H), 2.7 (m, 1H), 2.3 (m, 1H), 2.0 (m, 1H).

reactant | 6-bromoindanol | 2.4 mmol, 0.51 g | BrC1=CC=C2CCC(C2=C1)O | C9H9BrO
reactant | sodium hydride | 3.84 mmol, 0.097 g | [H-].[Na+]
reactant | iodomethane | 3.6 mmol, 0.22 mL | IC | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-Bromo-2,3-dihydro-1-methoxy-1H-indene | 0.485 g, 89% | BrC1=CC=C2CCC(C2=C1)OC | C10H11BrO
